US06034275
A solution of 162 mg of (2E,6E)-(RS)-10-(allyl-methyl-amino)-1-(4-bromo-phenyl)-3,7-dimethyl-deca-2,6-dien-1-ol (Ex. 57.2) in 6 ml of methylene chloride is treated in succession with 28 mg of sodium carbonate and 730 mg of manganese(IV) oxide. After stirring for 2 hrs. the mixture is filtered, concentrated and the residue is dissolved in ethanol with 28 mg of fumaric acid, evaporated and precipitated with ethyl acetate/ether. There are obtained 87 mg of (2E,6E)-10-(allyl-methyl-amino)-1-(4-bromo-phenyl)-3,7-dimethyl-deca-2,6-dien-1-one.fumarate (1:1), MS: m/e 404 (M+H+, 1Br).

reactant | (2E,6E)-(RS)-10-(allyl-methyl-amino)-1-(4-bromo-phenyl)-3,7-dimethyl-deca-2,6-dien-1-ol | 162 mg | C(C=C)N(CCC/C(=C/CC/C(=C/C(O)C1=CC=C(C=C1)Br)/C)/C)C | C22H32BrNO
reactant | sodium carbonate | 28 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese(IV) oxide | 730 mg | [O-2].[Mn+4].[O-2]
product | (2E,6E)-10-(allyl-methyl-amino)-1-(4-bromo-phenyl)-3,7-dimethyl-deca-2,6-dien-1-one | 87 mg | C(C=C)N(CCC/C(=C/CC/C(=C/C(=O)C1=CC=C(C=C1)Br)/C)/C)C | C22H30BrNO
